US05523469
5.2 g of potassium nonafluorobutanesulphonate dissolved in 12 cm3 of acetone are added to a solution of 10.5 g of a mixture of the A and B forms (about 15/85 in moles) of N-benzylquininium 1-(3-nitrophenyl)ethanesulphonate in 16 cm3 of acetone. The insoluble product is filtered off and then dissolved in 9 cm3 of water. 8.4 cm3 of an aqueous 1N hydrochloric acid solution and 1.15 g of (R)-(-)-phenylglycinol are added. The solution obtained is concentrated to dryness under reduced pressure (2.7 kPa) at 50° C. The residue obtained is extracted with 3 times 15 cm3 of acetonitrile under reflux. The organic phases are combined and concentrated to about 7 cm3 ; after cooling, the crystals are filtered off and dissolved in 7.5 cm3 of an aqueous 1N sodium hydroxide solution. The solution obtained is washed with 8 times 25 cm3 of diethyl ether, after which 60 cm3 of an aqueous 0.5M solution of potassium dihydrogenphosphate and 2.3 g of tetra-n-butylammonium hydrogensulphate are added. The mixture is extracted with 3 times 30 cm3 of methylene chloride. The combined organic phases are dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. 2.8 g of the laevorotatory isomer of tetra-n-butylammonium 1-(3-nitrophenyl)ethanesulphonate are thus obtained in the form of an oil which is used as such in the subsequent syntheses.

reactant | potassium nonafluorobutanesulphonate | 5.2 g | FC(C(C(C(S(=O)(=O)[O-])(F)F)(F)F)(F)F)(F)F.[K+]
reactant | 1-(3-nitrophenyl)ethanesulphonate | [N+](=O)([O-])C=1C=C(C=CC1)C(C)S(=O)(=O)[O-]
solvent | acetone | 12 cm3 | CC(=O)C | C3H6O
solvent | acetone | 16 cm3 | CC(=O)C | C3H6O
product | tetra-n-butylammonium 1-(3-nitrophenyl)ethanesulphonate | [N+](=O)([O-])C=1C=C(C=CC1)C(C)S(=O)(=O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC | InChI=1S/C16H36N.C8H9NO5S/c1-5-9-13-17(14-10-6-2,15-11-7-3)16-12-8-4;1-6(15(12,13)14)7-3-2-4-8(5-7)9(10)11/h5-16H2,1-4H3;2-6H,1H3,(H,12,13,14)/q+1;/p-1
